US07125901B2
N-{4-[2-(4-{[(1,3-Dioxo-1,3-dihydro-2H-isoindol-2-yl)oxy]methyl}phenyl)ethyl]-1,3-thiazol-2-yl}acetamide (200 mg), methylhydrazine (0.038 ml) and dichloromethane (4 ml) were combined under nitrogen atmosphere. The reaction mixture was stirred at room temperature for 1.5 hours, and filtered in vacuo. The filtrate was washed with saturated sodium hydrogen carbonate solution, water and saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated in vacuo. The residual solid was washed with acetonitrile to give N-[4-(2-{4-[(aminooxy)methyl]phenyl}ethyl)-1,3-thiazol-2-yl]acetamide (81.8 mg) as a colorless solid.

reactant | N-{4-[2-(4-{[(1,3-Dioxo-1,3-dihydro-2H-isoindol-2-yl)oxy]methyl}phenyl)ethyl]-1,3-thiazol-2-yl}acetamide | 200 mg | O=C1N(C(C2=CC=CC=C12)=O)OCC1=CC=C(C=C1)CCC=1N=C(SC1)NC(C)=O | C22H19N3O4S
reactant | methylhydrazine | 0.038 ml | CNN | CH6N2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | N-[4-(2-{4-[(aminooxy)methyl]phenyl}ethyl)-1,3-thiazol-2-yl]acetamide | 81.8 mg | NOCC1=CC=C(C=C1)CCC=1N=C(SC1)NC(C)=O | C14H17N3O2S
